US05969139
A solution of 296 mg of imidazole and 131 mg of sodium hydride (80% dispersion in mineral oil) in 2 ml of anhydrous dimethylformamide was stirred at room temperature for 1 hour under nitrogen. 1.0 g of 3-bromobenzaldehyde dimethyl acetal and 30 mg copper powder were then added and the mixture was stirred at 150-160° C. under nitrogen for 36 hours. The cooled mixture was diluted with 20 ml of water and extracted with four 25 ml portions of dichloromethane. The combined extracts were washed with two 25 ml portions of 25% aqueous ammonia, followed by two 25 ml portions of brine and then dried over anhydrous magnesium sulphate. The solution was concentrated under reduced pressure to give 0.75 g of 3-(1-imidazolyl)-benzaldehyde dimethyl acetal as a clear viscous oil.

reactant | imidazole | 296 mg | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 131 mg | [H-].[Na+]
reactant | 3-bromobenzaldehyde dimethyl acetal | 1.0 g | COC(C1=CC(=CC=C1)Br)OC | C9H11BrO2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
catalyst | copper | 30 mg | [Cu] | Cu
product | 3-(1-imidazolyl)-benzaldehyde dimethyl acetal | 0.75 g | COC(C1=CC(=CC=C1)N1C=NC=C1)OC | C12H14N2O2
